Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Simvastatin / Lisinopril
 
Attending: ___.
 
Chief Complaint:
Need for cath and heparin bridging
 
Major Surgical or Invasive Procedure:
___ Cardiac Cath
___ Cardioversion

 
History of Present Illness:
This is a a ___ with history of CAD s/p CABG in ___, CHF (EF 
30%) DM, NSVT s/p ICD, pAF on coumadin, CVA in ___ who 
presents for direct admission for cath. In ___, patient 
presented in ___ with chest pain and was found to have NSTEMI 
which was reportedly treated medically. Since then, he reports 
several episodes of chest pain, for which an ETT was scheduled. 
Two days prior to admission, patietn had 2 further episodes of 
chest pain, one of which awoke the patient up from sleep. Both 
episodes were relieved with SLNG. Of note patient received a 
steroid knee injection on ___ (day prior to chest pain 
episodes). Given his pain, he contacted his cardiologist who 
recommended bypassing ETT and admission for cath. Given his 
recent stroke, it was thought that he should be bridged with 
heparin while his INR falls to subtherapeutic level.

Since then, patient reports no chest pain or pressure. However 
since ___ has been rather sedentary. He has taken warfarin 
everyday with his last dose being yesterday. His last INR was 
2.5 two weeks prior to admission.

Currently, he states that he feels well.

On review of systems, he denies any prior history of deep venous 
thrombosis, pulmonary embolism, bleeding at the time of surgery, 
myalgias, joint pains, cough, hemoptysis, black stools or red 
stools. He denies recent fevers, chills or rigors. Hep denies 
exertional buttock or calf pain. All of the other review of 
systems were negative.  

Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope
 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:  
-CABG: ___ 
-PERCUTANEOUS CORONARY INTERVENTIONS: last cath in ___ with 
occluded RCA
-PACING/ICD: ICD ___ NSVT  
3. OTHER PAST MEDICAL HISTORY:  
- CVA (?embolic) while in ___ in ___ with aphasia - 
reported mostly resolved
- OSA uses CPAP
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. 
 
Physical Exam:
Admission Physical Exam:
============================
VS: 98.0 126/69 81 16 96%RA
General: well appearing NAD comfortable
HEENT: EOMI PERRL NCAT, clear OP
Neck: supple, no cervical LAD, JVP at clavlicle while sitting up
CV: nls1s2 RRR no mrg 
Lungs: CTAB
Abdomen: soft, NT ND +BS
GU: no foley
Ext:  trace edema, wwp, +2DP, ___ and radial pulses
Neuro: CN II-XII grossly intact, ___ strength intact, AAOx3
Skin: intact

Discharge Physical Exam:
===========================
VS: 97.5 94/44-120/71 45-51 18 97%RA
DISCHARGE WEIGHT:88.0kg
General: well appearing, NAD, capable of speaking in full sent
HEENT: NCAT, clear OP
Neck: JVP not visible sitting upright
CV: nls1s2 Rrr no mrg, ICD palpable in L chest wall
Lungs: CTAB no wheezing crackles rhonchi
Abdomen: soft, NABS, softly distended, NT
Ext: warm with 1+ DP pulses b/l
Skin: intact
 
Pertinent Results:
Admission Labs:
================
___ 04:42PM BLOOD WBC-11.9*# RBC-4.58* Hgb-14.8 Hct-42.2 
MCV-92 MCH-32.4* MCHC-35.2* RDW-13.8 Plt ___
___ 07:30AM BLOOD Neuts-74.2* Lymphs-12.7* Monos-10.9 
Eos-2.0 Baso-0.3
___ 04:42PM BLOOD ___ PTT-48.0* ___
___ 04:42PM BLOOD Glucose-87 UreaN-33* Creat-1.4* Na-137 
K-4.0 Cl-95* HCO3-32 AnGap-14
___ 04:42PM BLOOD Calcium-9.1 Phos-3.6 Mg-1.8
___ 07:30AM BLOOD TSH-2.8

IMAGING:
============
ECHO (___):
The left atrium is moderately dilated. There is mild symmetric 
left ventricular hypertrophy. The left ventricular cavity is 
moderately dilated. There is severe regional left ventricular 
systolic dysfunction with inferior and inferolateral thinning 
and akinesis. There is moderate to severe hypokinesis of the 
remaining segments (LVEF = ___. No masses or thrombi are 
seen in the left ventricle. Tissue synchronization imaging 
demonstrates significant left ventricular dyssynchrony, because 
of inferolateral akinesis. The delay between left ventricular 
and right ventricular ejection is 13 ms ___ <40ms). The left 
ventricle is dyssnchronous with global synchrony (___) index of 
60 ms ___ <=33ms), although the most dyssynchronous segment 
(inferolateral wall) is also the one which appears thin and 
fibrotic. Right ventricle is mildly dilated and hypokinetic. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. The mitral valve leaflets are 
structurally normal. The mitral valve leaflets do not fully 
coapt. Moderate (2+) mitral regurgitation is seen. The left 
ventricular inflow pattern suggests a restrictive filling 
abnormality, with elevated left atrial pressure. Moderate to 
severe [3+] tricuspid regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

IMPRESSION: Dilated left ventricle with severe regional and 
global left ventricular systolic dysfunction. Significant 
intraventricular LV dyssynchrony, however late segments are also 
likely scarred. Moderate functional mitral regurgitation. 
Moderate to severe tricuspid regurgitation. Moderate pulmonary 
hypertension.

Compared with the prior study (images reviewed) of ___, LV 
cavity has further dilated, LV systolic function is reduced. 
Severity of mitral and tricuspid regurgitation has increased

CXR (___):
FINDINGS:  There is stable cardiomegaly.  Dual-lead left-sided 
pacemaker is in adequate position with leads terminating in the 
right atrium and right ventricle.  As compared to prior chest 
radiograph from ___, there is an increased area of 
opacity in the right lung base with obscuration of the medial 
right hemidiaphragm.  In the appropriate clinical setting, this 
could reflect early pneumonia. There is congestion of the upper 
lobes. There is no definite pneumothorax or pleural effusions.   

IMPRESSION:  Increased opacity at right lung base with 
obscuration of the 
medial right hemidiaphragm. In the appropriate clinical setting, 
this could represent early pneumonia.  Clinical correlation is 
recommended. 

DISCHARGE LABS:
================
___ 05:50AM BLOOD WBC-9.0 RBC-3.87* Hgb-12.3* Hct-36.4* 
MCV-94 MCH-31.9 MCHC-33.9 RDW-14.2 Plt ___
___ 05:50AM BLOOD ___ PTT-82.8* ___ 05:50AM BLOOD Glucose-75 UreaN-47* Creat-2.2* Na-135 
K-4.3 Cl-95* HCO3-___ AnGap-___ with history of CAD s/p CABG in ___, CHF (EF 30%) DM, NSVT 
s/p ICD, pAF on coumadin, CVA in ___ who presented for 
direct admission for heparin bridging in anticipation for cath, 
s/p cath with occluded grafts complicated by acute on chronic 
CHF, acute on chronic renal disease, sustained Vtach s/p 
cardioversion, a.fib being amio loaded.
.
ACTIVE ISSUES:
============================
# Acute on chronic congestive heart failure with 
diastolic/systolic dysfunction: EF 30% in ___. After his cath, 
echo showed EF during this admission showed EF ___. The day 
after cardiac cath the patient was noted to be in acute on 
chronic CHF with an elevated, bibasilar crackles without 
significant edema thought to be secondary to NSTEMI. He was 
transferred to the CCU and started on Lasix gtt 10mg/hr and 
required additional dose of metalozone. His urine output 
improved with increasing furosemide dose to 15mg/hr. His 
spironolactone was stopped in the CCU. When the patient appeared 
to be close to euvolemia he switched to torsemide 60mg daily and 
was discharged on this dose. No admission 91.6 kg was his 
maximum weight and discharge weight was 88.0 kg. 
.
# NSTEMI: Given the patient's history of stroke in ___, he 
was admitted for heparin bridging prior to cardiac 
catheterization. He underwent cardiac catheterization on ___ 
without intervention, which was complicated by wire dissection. 
Day after cardiac cath, he developed on going chest 
pain/pressure, diaphoresis and SOB. Cardiac enzymes continued to 
trend upward with a peak of CK-MB 45 and troponin of 1.49. His 
troponin remained elevated beyond when his CK-MB trended 
downwards given his underlying renal failure. At that point, it 
was determined to medically manage the patient with the addition 
of imdur 30mg daily, metoprolol 50mg daily, atorvastatin, and 
full dose aspirin. Given his recent stroke, neurology was 
consulted in regards to dual anti-platelet in addition to 
coumadin given increased risk of bleeding. It was recommended 
that he stay on full dose aspirin and coumadin. His chest pain 
resolved by admission. 
.
# Paroxysmal Afib: Patient was initially admitted prior to 
catheterization for heparin bridging given that he had a CVA in 
___ and there was concern that his recent CVA was secondary 
to embolic event. CHADS2 score was 6. His precath course was 
complicated by one episode of afib with RVR. He was then started 
on amiodarone and was loaded with amiodarone 400mg BID for a 
total of 8g and switched to amiodarone 400mg daily thereafter 
for an additional month. He was rate controlled with metoprolol 
succinate 50mg daily. After cath, he was bridged to coumadin 
with heparin gtt as renal function precluded the use of 
enoxaparin for bridging. After return to the floor from the CCU, 
he did not have any episodes of a.fib with rvr. As per the 
patient, his INR is managed by his PCP and should have next INR 
drawn on ___.
.
# Acute on chronic renal failure: Baseline Cr 1.4-1.6. After 
cardiac catheterization and while the patient was in the CCU he 
was noted to have low UOP and an increase in his creatinine with 
a peak of 3.5. Renal was consulted by CCU team and thought to be 
secondary to pre-renal etiology despite being hypervolemic on 
exam at that time and most likely had vasoconstriction from 
contrast dye as timing was too soon to have developed contrast 
nephropathy. His creatinine improved with diuresis (see above 
for further details). His losartan was initially held in the 
setting of renal failure, but was restarted prior to discharge. 
His discahrge cr was 2.2, which appears to be his new baseline. 
He should follow up with nephrology as an outpatient.
.
# Ventricular Tachycardia: ICD placed in ___ for primary 
prevention and underwent generator change in ___. While the 
patient was in the CCU, he was intermittently with episodes of 
VTach with rates up to 160s-170s symptomatic only with 
dizziness. The patient sustained in VT for >20minutes and was 
subsequently cardioverted on ___. His ICD was interrogated the 
day after by EP and was determined to be functioning properly. 
He was monitored on telemetry after he returned to the floor 
without episodes of VT.
.
# Leukocytosis: Peak WBC 16.8 without any localizing signs of 
symptoms for infection and he remained afebrile throughout his 
course. Urine and blood cultures were negative. CXR was 
consistent with pulmonary edema. Leukocytosis was most likely 
from stress reaction and had resolved by discharge at the time 
his WBC was 9.0 
.
# DM: At home, patient is maintained on combination of oral 
hypoglycemics and insulin. Also of note, patient persistently 
symtpomatically hypoglycemic in AM with home dose of insulin in 
the intensive care unit most likely combination of poor po 
intake and worsening renal function. His insulin was adjusted, 
so dose of nighttime long acting insulin was halved to 15 units 
on day of transfer to the floor. The patient was then 
transitioned back to his home dosing of insulin prior to 
discharge without any episodes of hypoglycemia.
.
# CVA: Given his recent stroke in ___ with only deficit word 
finding difficulties at times, neurology was consulted in 
regards to dual anti-platelet in addition to coumadin given 
increased risk of bleeding. It was recommended that he stay on 
full dose aspirin and coumadin.
.
# Hematuria: While on the heparin gtt, the patient had his foley 
removed and developed one day of hematuria that resolved the 
next day. His hematocrit remained stable with discharge Hct of 
36.4.
.
CHRONIC ISSUES:
===========================
# HLD: continued on atorvastatin.

# BPH: continued on doxazosin.

# OSA: Patient refused capap during hospitalization. He was 
maintained on continuous O2 monitoring.

TRANSITIONAL ISSUES:
==========================
# Code: Full
# Restarting spironolactone as outpatient
# Establish care with nephrologist
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO HS 
2. Doxazosin 8 mg PO HS 
3. Duloxetine 30 mg PO BID 
4. Furosemide 80 mg PO DAILY 
5. Furosemide 40 mg PO QPM 
6. 70/30 52 Units Breakfast
70/30 30 Units Dinner
7. Losartan Potassium 25 mg PO DAILY 
8. MetFORMIN (Glucophage) 1000 mg PO BID 
9. Carvedilol 6.25 mg PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. Januvia *NF* (sitaGLIPtin) 100 mg Oral daily 
12. Spironolactone 12.5 mg PO QMOWEFR 
13. Aspirin 325 mg PO DAILY 
14. FoLIC Acid 1 mg PO DAILY 
15. Slo-Niacin *NF* (niacin) 500 mg Oral daily 
16. Finasteride 5 mg PO DAILY 
17. ClonazePAM 0.5 mg PO QHS 
18. Warfarin 5 mg PO DAILY16 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 40 mg PO HS 
3. ClonazePAM 0.5 mg PO QHS 
4. Doxazosin 8 mg PO HS 
5. Duloxetine 30 mg PO BID 
6. Finasteride 5 mg PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. 70/30 52 Units Breakfast
70/30 30 Units Dinner
9. Losartan Potassium 25 mg PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. Warfarin 3 mg PO DAILY16 
RX *warfarin 1 mg 3 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0
12. Amiodarone 400 mg PO DAILY 
RX *amiodarone 400 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
13. Januvia *NF* (sitaGLIPtin) 100 mg Oral daily 
14. MetFORMIN (Glucophage) 1000 mg PO BID 
15. Slo-Niacin *NF* (niacin) 500 mg Oral daily 
16. Torsemide 60 mg PO DAILY 
RX *torsemide 20 mg 3 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0
17. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*0
18. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: NSTEMI, Acute on Chronic Kidney Disease, Atrial 
Fibrillation, Hematuria, Ventricular Tachycardia

SECONDARY: Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___.

You came to the hospital because you were having chest pain and 
underwent cardiac catheterization that was unable to intervene 
upon the lesion, but it did cause an injury to the artery. 
Afterwards, you had trouble breathing and were transferred to 
intensive care unit. You needed to have fluid from your legs and 
around your lungs and your breathing improved thereafter. We 
were able to do this with furosemide and your symptoms improved.

As you go forward, it is important to weigh yourself every 
morning, call your primary care physician or cardiologist if 
weight goes up more than 3 lbs.

You were also found to have an irregular heart rate in the 
intensive care unit called ventricular tachycardia and you had 
to be shocked out of this rhythm.

In regards to your atrial fibrillation, you were on a heparin to 
keep you blood thin while we waited for your INR from your 
coumadin to be therapeutic between ___. Since amiodarone 
enhances the effect of coumadin (warfarin), you most likely will 
need less coumadin than previously.

While here, you were found to have slightly worsening kidney 
function and should follow up with a cardiologist.

The following changes were made to your medications:
--START amiodarone 400mg daily
--START torsemide 60mg daily
--START isosorbide mononitrate 30mg daily
--START warfarin 3mg daily, until you have your next INR checked 
and your pcp ___ adjust the dose from there.
--START Metoprolol 50mg daily
--STOP carvedilol
--STOP spironolactone
--STOP furosemide (it is being replaced with torsemide)
 
Followup Instructions:
___